US08476253B2
tert-Butyl 3-(2-hydroxyethoxy)propanoate
tert-Butyl acrylate (5.72 mL, 39.0 mmol) was added to a mixture of ethylene glycol (2.42 g, 39.0 mmol), tetrabutylammonium bromide (377 mg, 1.17 mmol) and potassium hydroxide (77 mg; purity, 85%; 1.17 mmol), and the mixture was stirred at room temperature for 4 days. The reaction mixture was purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1, v/v) to give the title compound (1.66 g; yield, 22%) as a colorless oily substance.

reactant | tert-Butyl acrylate | 39.0 mmol, 5.72 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | ethylene glycol | 39.0 mmol, 2.42 g | C(CO)O | C2H6O2
reactant | potassium hydroxide | 1.17 mmol, 77 mg | [OH-].[K+]
catalyst | tetrabutylammonium bromide | 1.17 mmol, 377 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-Butyl 3-(2-hydroxyethoxy)propanoate | 1.66 g, 22% | OCCOCCC(=O)OC(C)(C)C | C9H18O4
